US07524845B2
Preparation of (3-azido-pyrazolo[3,4-b]pyridine-1-yl)acetic acid ethyl ester:
A mixture of (3-(bromomethyl)-pyrazolo[3,4-b]pyridine-1-yl)acetic acid ethyl ester (0.5 mmol, 1 eq.) and sodium azide (1 mmol, 2 eq.) in 1 mL of DMF was heated at 80° C. for 1 h. The resultant mixture was cooled to rt, diluted with 150 mL of EtOAc, washed with water (40 mL×3), brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The solvent was removed in vacuo to provide 135.2 mg desired product: HPLC retention time 1.84 minutes (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C.) using 1 ml/min flow rate, a 2.5 minute gradient of 20% to 100% B with a 1.1 minute wash at 100% B (A=0.1% formic acid/5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile); MS (ES) M+H expect=261.1, found=261.4.

reactant | (3-(bromomethyl)-pyrazolo[3,4-b]pyridine-1-yl)acetic acid ethyl ester | 0.5 mmol, 1 eq. | C(C)OC(CN1N=C(C=2C1=NC=CC2)CBr)=O | C11H12BrN3O2
reactant | sodium azide | 1 mmol, 2 eq. | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (3-azido-pyrazolo[3,4-b]pyridine-1-yl)acetic acid ethyl ester | 135.2 mg | C(C)OC(CN1N=C(C=2C1=NC=CC2)N=[N+]=[N-])=O | C10H10N6O2
